.subckt hv9921_2_3 Drain GND_ VDD R=20
M1 Drain G1 S S MHV
Bout G1 GND_  V=min(V(VDD,gnd_),V(G,GND_))
D1 GND_ VDD DZ
D2 Drain VDD ilim
R1 S GND_ {R}
CR1 s GND_  20p
A2 B GND_ GND_ GND_ GND_ P001 GND_ GND_ SCHMITT Vt=0.43  Vh=0.02 Vhigh=1 Vlow=0 Td=220n Trise=10n Tfall=10n  tripdt=2n
A1 A GND_ GND_ GND_ GND_ _G G GND_ SCHMITT Vt=0.5 Vh=0.2 Vhigh=7.5 Vlow=0 Td=2n Trise=200n Tfall=10n tripdt=2n
ra vdd _G 40k
C1 A GND_ 75p
D3 A P001 Dd
C2 B GND_ 20p
R2 S B 10k
.model MHV VDMOS VTO=4.5 LAMBDA=10m Rd=100 kp=0.2 BV=650  cgs=50p
.model Dz d vfwd=0.5 Vrev=7.5 Ron=100
.model ilim d vfwd=30 ilimit=270u Ron=1k Roff=1Meg
.model Dd d vfwd=0  Ron=1 Roff=100k
.ends hv9921_2_3

.subckt hv9921 Drain GND_ VDD
X Drain GND_ VDD hv9921_2_3 R=21
.ends hv9921

.subckt hv9922 Drain GND_ VDD
X Drain GND_ VDD hv9921_2_3 R=7.57
.ends hv9922

.subckt hv9923 Drain GND_ VDD
X Drain GND_ VDD hv9921_2_3 R=13.83
.ends hv9923