.subckt indmot3ph A B C W N RPM M Np=2 J=0.62 k=0.97 Ls=29.4m Lr=29.7m Rs=67m Rr=32m
C n 0 100p Rpar=100Meg
Ra A P001 {Rs}
La P001 N {Ls}
Rb B N001 {Rs}
Lb N001 N {Ls}
Rc C N004 {Rs}
Lc N004 N {Ls}
Lx N006 N005 {Lr2}
Rx N005 0 {Rr2}
Bx N006 0 V=-Np*V(w)*(Lm*s3/2*(I(Lb)-I(Lc))+Lr2*I(Ly))
Ly N002 N003 {Lr2}
Ry N003 0 {Rr2}
By N002 0 V=Np*V(w)*(3/2*Lm*I(La)+Lr2*I(Lx))
Bt 0 W I=Np*s3/2*Lm*((I(Lb)-I(Lc))*I(Lx)-s3*I(La)*I(Ly))
Cw W 0 {J}
Bn RPM 0 V=V(W)/2/Pi*60
Bm M 0 V=I(Bt)
*.param Np=2; Stator Pole Number
*.param J=0.62; Moment of Inertia
*.param k=0.97; Mutual Coupling Coeff
*.param Ls=29.4m; Stator Induction
*.param Lr=29.7m; Rotor Induction
*.param Rs=67m; Stator Resistance
*.param Rr=32m; Rotor Resistance
.param Lr2=Lr*3/2 Rr2=Rr*3/2
+ Lm=sqrt(Ls*Lr)*k
+ k0=Lm/sqrt(Ls*Lr2)
+ s3=sqrt(3)
Kax La Lx {k0}
Kbx Lb Lx {-k0/2}
Kby Lb Ly {k0*s3/2}
Kcx Lc Lx {-k0/2}
Kcy Lc Ly {-k0*s3/2}
.ends indmot3ph
